US08957203B2
Tetrahydrofuran (110 mL) was added to a round bottom flask and placed under N2. trimethyl(trifluoromethyl)silane (7.18 mL, 48.6 mmol) was then added and stirred under N2 and then cooled to 0° C. oxetan-3-one (2.5 g, 34.7 mmol) was then added via syringe and stirred for 5 minutes at 0° C. to ensure complete mixing. TBAF (0.347 mL, 0.347 mmol) was added dropwise slowly via syringe and allowed to warm up to RT for 1 hr. The reaction was then cooled back down to 0° C. and added 30 mL of 1N HCl and stirred at RT for overnight. The reaction was then diluted with EtOAc and separated with water. The organic layer was washed with brine, dried over MgSO4, filtered and evaporated to give the product 3-(trifluoromethyl)oxetan-3-ol (2.00 g, 40.6% yield) as an orange thin oil. 1H NMR (400 MHz, CHLOROFORM-d) δ 4.82-4.74 (m, 2H), 4.70-4.60 (m, 2H), 3.23 (br. s., 1H).

reactant | Tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
reactant | trimethyl(trifluoromethyl)silane | 48.6 mmol, 7.18 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | oxetan-3-one | 34.7 mmol, 2.5 g | O1CC(C1)=O | C3H4O2
reactant | HCl | 1N, 30 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | TBAF | 0.347 mmol, 0.347 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-(trifluoromethyl)oxetan-3-ol | 2.00 g, 40.6% yield | FC(C1(COC1)O)(F)F | C4H5F3O2
